US06762320B2
N-[3-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamide
The title compound is prepared in analogy to example 3 from N-[3-fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester and ammonium hydroxide. Light yellow solid. MS: m/e=321.2 (M++H).

reactant | N-[3-fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)F)=O | C17H15F2NO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[3-Fluoro-4-(3-fluoro-benzyloxy)-phenyl]-malonamide | FC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC(CC(=O)N)=O | C16H14F2N2O3
